US06967211B2
(Step 1) Synthesis of 3-hydroxy-2-nitrobenzaldehyde
3.62 g of 3-methoxy-2-nitrobenzaldehyde was dissolved in 80 ml of methylene chloride and a boron tribromide-methylene chloride solution (15.03 g of, boron tribromide, 40 ml of methylene chloride) was added dropwise under ice cooling, followed by stirring at 0° C. for one hour. The reaction solution was poured into ice, extracted with chloroform, dried and then concentrated to obtain 3.32 g of the desired compound.

reactant | 3-methoxy-2-nitrobenzaldehyde | 3.62 g | COC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | boron tribromide methylene chloride | 40 ml, 15.03 g | B(Br)(Br)Br.C(Cl)Cl
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2-nitrobenzaldehyde | 3.32 g | OC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C7H5NO4
